US08389511B2
tert-Butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate
To a solution of tert-butyl (2R,5R)-2-(2-ethoxy-2-oxoethyl)-5-(isopropylamino)piperidine-1-carboxylate (6.0 g) in dichloromethane (200 mL) was added diisopropylethylamine (19.1 mL), and thereto was further added dropwise under ice-cooling Z—Cl (13.0 mL) over a period of one hour. The mixture was stirred at room temperature for one hour, and then, the reaction solution was diluted with chloroform. The mixture was washed successively with an ice-cold aqueous potassium hydrogen sulfate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel chromatography to give the title compound (8.9 g) as a pale brown oil.

reactant | tert-butyl (2R,5R)-2-(2-ethoxy-2-oxoethyl)-5-(isopropylamino)piperidine-1-carboxylate | 6.0 g | C(C)OC(C[C@@H]1N(C[C@@H](CC1)NC(C)C)C(=O)OC(C)(C)C)=O | C17H32N2O4
reactant | diisopropylethylamine | 19.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Z—Cl | 13.0 mL | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate | 8.9 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CC(=O)OCC)C(C)C | C25H38N2O6
